US09334286B2
Preparation 57: 7-Chloro-2-(methylthio)pyrido[2,3-d]pyrimidine
A suspension of 2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (297 mg, 1.54 mmol) in POCl3 (6 mL) was stirred under argon at 80° C. for 16 hours. The solution was cooled, and the resulting precipitate was filtered and washed with EtOAc to afford the title compound (43 mg, 13%). The filtrate was diluted with EtOAc, washed with NaHCO3 and dried with Na2SO4. After removal of the solvent, a second crop was obtained (154 mg, 48%).

reactant | 2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.54 mmol, 297 mg | CSC=1N=CC2=C(N1)NC(C=C2)=O | C8H7N3OS
reactant | POCl3 | 6 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-2-(methylthio)pyrido[2,3-d]pyrimidine | 43 mg, 13% | ClC=1C=CC2=C(N=C(N=C2)SC)N1 | C8H6ClN3S
